US09334263B2
Synthesis of 1-((4-bromophenyl)diazenyl)pyrrolidine
To a solution of 4-bromoaniline (1.7 g, 9.88 mmol) in conc. HCl (2 mL) was added a solution of NaNO2 (682 mg, 9.88 mmol) in water (3 mL) at 0° C. The solution was stirred at 0° C. for 10 minutes, followed by the addition of pyrrolidine (844 mg, 11.86 mmol) in KOH solution (1 mL, 1 N). The resultant mixture was stirred at 0° C. for 0.5 h. The formed precipitate was collected by filtration, washed with 1 mL of ethanol and dried to give the title compound as a yellow solid (1.5 g, yield 60%). MS (ES+) C10H12BrN3 requires: 253, 255, found 254, 256 [M+H]+, purity: 93%.

reactant | 4-bromoaniline | 9.88 mmol, 1.7 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | NaNO2 | 9.88 mmol, 682 mg | N(=O)[O-].[Na+]
reactant | pyrrolidine | 11.86 mmol, 844 mg | N1CCCC1 | C4H9N
solvent | HCl | 2 mL | Cl | ClH
solvent | water | 3 mL | O | H2O
solvent | KOH | 1 N, 1 mL | [OH-].[K+]
product | 1-((4-bromophenyl)diazenyl)pyrrolidine | 1.5 g, yield 60% | BrC1=CC=C(C=C1)N=NN1CCCC1 | C10H12BrN3
